US08067448B2
(2R,3R)-2-(4-Cyanonaphthalen-1-ylamino)-3-hydroxybutanoic acid
To a suspension of D-allo-threonine (2.09 g, 17.53 mmol) and K2CO3 (4.04 g, 29.21 mmol) in DMSO (40 mL) was added 4-fluoro-1-naphthonitrile (CAS 13916-99-9, 2.50 g, 14.61 mmol) at room temperature. The reaction mixture was heated to 80° C. and stirred for 89 h. The reaction mixture was allowed to cool to room temperature, quenched with H2O (150 mL) and extracted with EtOAc (3×100 mL). The aqueous layer was then acidified with solid citric acid and extracted with EtOAc (2×100 mL). The later organic extracts were combined, washed with H2O (3×100 mL), dried (Na2SO4), filtered and concentrated under reduced pressure to provided the title compound as a light brown solid (3.0 g, 76%): 1H NMR (400 MHz, DMSO-d6, δ in ppm) 8.46 (d, J=8.8 Hz, 1H), 7.97 (d, J=8.2 Hz, 1H), 7.90 (d, J=8.6 Hz, 1H), 7.74 (t, J=7.0 Hz, 1H), 7.62 (t, J=7.6 Hz, 1H), 6.98 (d, J=8.0 Hz, 1H), 6.57 (d, J=8.4 Hz, 1H), 4.29-4.20 (m, 1H), 4.08-3.99 (m, 1H), 1.28 (d, J=6.1 Hz, 3H).

reactant | D-allo-threonine | 17.53 mmol, 2.09 g | N[C@H]([C@H](O)C)C(=O)O | C4H9NO3
reactant | K2CO3 | 29.21 mmol, 4.04 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-fluoro-1-naphthonitrile | 14.61 mmol, 2.50 g | FC1=CC=C(C2=CC=CC=C12)C#N | C11H6FN
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
product | (2R,3R)-2-(4-Cyanonaphthalen-1-ylamino)-3-hydroxybutanoic acid | 3.0 g, 76% | C(#N)C1=CC=C(C2=CC=CC=C12)N[C@@H](C(=O)O)[C@@H](C)O | C15H14N2O3
